US07592477B2
Step c) Formation of ethyl oxo{(4-tetradec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}acetate
A mixture of ethyl{(4-bromobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate (100 mg, 0.23 mmol), 1-tetradecyne (66 mg, 0.34 mmol), copper(I) bromide (4.5 mg, 0.031 mmol) and palladium tetrakis(triphenylphosphine) (11 mg, 0.0095 mmol) in Et3N (1 mL) was heated at 90° C. for 75 min. After cooling to rt, the reaction mixture was diluted with an aqueous HCl solution (1N, 10 mL) and extracted with Et2O (2×20 mL). The combined organic layers were dried over MgSO4 and the solvent was removed under reduce pressure. The residue was purified by flash chromatography (cyclohex./Et2O 4:1) to give the title compound as yellow oil (63 mg, 50%). 1H NMR (CDCl3, 300 MHz) δ 7.61 (m, 2H), 7.33 (m, 4H), 7.14 (m, 2H), 4.51 (s, 1H), 4.47 (s, 1H), 4.34 (m, 4H), 2.40 (m, 2H), 1.58-1.26 (m, 23H), 0.88 (m, 3H). HPLC (Condition A), Rt: 8.21 min (HPLC purity: 99.3%).

reactant | ethyl{(4-bromobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | 0.23 mmol, 100 mg | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)Br)=O | C19H17BrF3NO3
reactant | 1-tetradecyne | 0.34 mmol, 66 mg | C#CCCCCCCCCCCCC | C14H26
solvent | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | HCl | 1N, 10 mL | Cl | ClH
catalyst | copper(I) bromide | 0.031 mmol, 4.5 mg | [Cu]Br
catalyst | palladium tetrakis(triphenylphosphine) | 0.0095 mmol, 11 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | ethyl oxo{(4-tetradec-1-ynylbenzyl)[4-(trifluoromethyl)benzyl]amino}acetate | 63 mg, 50% | O=C(C(=O)OCC)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C#CCCCCCCCCCCCC | C33H42F3NO3
